US04775692
Anhydrous diisopropylamine (14.8 g, 0.146 mol) was dissolved in anhydrous THF (90 ml) under argon atmosphere. To the mixture stirred at -50° C. was added dropwise n-butyl lithium (1.62N, 90 ml, 0.146 mol) over a period of 30 minutes, and then a solution of isobutyric acid (6.4 g, 0.073 mol) in anhydrous THF (10 ml) was added over a period of 30 minutes. After the mixture was warmed to -5° C., n-butyl bromide (15.0 g, 0.11 mol) dissolved in 10 ml anhydrous THF was added dropwise. After 30 minutes, the mixture was acidified to pH2 with 6N aqueous hydrogen chloride. The mixture was extracted with ethyl acetate (60 ml33 2). The ethyl acetate layers were washed with water (30 ml×1) and with brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. The residue was dissolved in 50 ml ether, and treated with an excess of ethereal solution of diazomethane. After concentration, distillation of the residue gave 2,2-dimethyl-hexanoic acid methyl ester (8.2 g, 0.052 mol, 71%, b.p.=69°-70° C./25 mmHg) as a colorless clear liquid. The structure of this product was confirmed by the following data.

reactant | diisopropylamine | 0.146 mol, 14.8 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.146 mol, 1.62N, 90 ml | C(CCC)[Li]
reactant | isobutyric acid | 0.073 mol, 6.4 g | C(C(C)C)(=O)O | C4H8O2
reactant | n-butyl bromide | 0.11 mol, 15.0 g | C(CCC)Br | C4H9Br
reactant | hydrogen chloride | 6N | Cl | ClH
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-hexanoic acid methyl ester | 0.052 mol, 8.2 g, 71% | COC(C(CCCC)(C)C)=O | C9H18O2
